US07893056B2
Pyrrolidine (1668 uL, 2 mmol), N-CBZ-D-alanine (446 mg, 2 mmol), and HOAt (272 mg, 2 mmol) were dissolved in 6 mL of dichloromethane. NMM (0.44 mL, 4 mmol) was added, followed by EDC (382 mg, 2 mmol). After stirring overnight at room temperature, the reaction mixture was diluted with EtOAc, washed with water, saturated aqueous NaHCO3 solution, and saturated aqueous NH4Cl solution, then dried (Na2SO4) and evaporated to yield phenylmethyl [(1R)-1-methyl-2-oxo-2-(1-pyrrolidinyl)ethyl]carbamate as a white solid (496 mg, 90%). LCMS: (M+H)+: 277.2.

reactant | Pyrrolidine | 2 mmol, 1668 uL | N1CCCC1 | C4H9N
reactant | N-CBZ-D-alanine | 2 mmol, 446 mg | C(=O)(OCC1=CC=CC=C1)N[C@H](C)C(=O)O | C11H13NO4
reactant | HOAt | 2 mmol, 272 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | NMM | 4 mmol, 0.44 mL | CN1CCOCC1 | C5H11NO
reactant | EDC | 2 mmol, 382 mg
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | phenylmethyl [(1R)-1-methyl-2-oxo-2-(1-pyrrolidinyl)ethyl]carbamate | 496 mg, 90% | C[C@H](C(N1CCCC1)=O)NC(OCC1=CC=CC=C1)=O | C15H20N2O3
